Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chronic hypertension with superimposed severe pre-eclampsia 
spontaneous vaginal delivery at 31 weeks 6 days 
 
Major Surgical or Invasive Procedure:
spontaneous vaginal delivery
placement of ___ IUD
 
History of Present Illness:
___ yo G3P1 at 31.1 with cHTN sent in from office for ___ 
evaluation. Elevated BPs in office with systolic BP 170s. Not on 
medications in this pregnancy. Denies HA, CP, SOB, RUQ pain, 
change in vision.
 
Past Medical History:
OB: G3P1
G1: SVD, c/b severe PEC required magnesium
G2: TAB, D&C
G3: current

GYN: None

PMH: Denies

PSH:
- D&C
- Wisdom teeth
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
BPs 165/94, 149/102, 154/97, 161/87, 152/88, 162/96, 173/107
Resp 18, T 98.1
Gen: NAD, comfortable
CV: RRR
Resp: CTAB
Abd: soft, non-tender
Ext: non-tender no edema
TAUS: vtx, MVP ___
FHT: 145/mod var/+accels/-decels
Toco: flat

Physical Exam on Discharge: 
VS: Afebrile, VSS 
Neuro/Psych: NAD, Oriented x3, Affect Normal 
Heart: RRR
Lungs: CTA b/l
Abdomen: soft, appropriately tender, fundus firm
Pelvis: minimal bleeding 
Extremities: warm and well perfused, no calf tenderness, no 
edema 
 
Brief Hospital Course:
___ yo G3P1 with cHTN admitted at 31w1d with severe preeclampsia. 
On admission, she had multiple severe range blood pressures. 
Preeclampsia labs were normal with the exception of an increase 
in proteinuria (920mg). She was started on po Nifedipine CR, 
which was quickly uptitrated to 60mg BID. Fetal testing was 
reassuring. She received a course of betamethasone (complete 
___ and the NICU was consulted. On HD#3, a second agent was 
added to her regimen (Labetolol 200mg TID) due to persistently 
elevated blood pressures. She otherwise remained clinically 
stable until 31w5d when she had routine fetal testing in the 
___ and was noted to have oligohydramnios and an elevated s/d 
(4.9). Delivery was recommended. She was transferred to labor 
and delivery for induction of labor. She received Magnesium for 
neuroprotection and seizure prophylaxis intrapartum. She had a 
spontaneous vaginal delivery on ___ and delivered a liveborn 
female weighing 1310 grams with Apgars of ___. Neonatology 
staff was present for delivery and transferred the neonate for 
prematurity.
------------------
She was continued on Magnesium for 24 hours postpartum, and her 
blood pressures were controlled with oral labetolol and 
nifedipine. Her pain was treated with oral pain medications. She 
ambulated and her foley was discontinued and she voided 
spontaneously. Her diet was advanced without incident. 

By postpartum day 4, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was afebrile with stable vital signs. Her 
anti-hypertension regimen was Labetolol 200mg BID and Nifedipine 
CR 60mg BID. She was discharged home in stable condition with 
postpartum outpatient follow-up scheduled.
 
Medications on Admission:
PNV
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain 
Do not exceed 4000 mg in 24 hour hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily. 
Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Moderate Pain 
Take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*1 
4.  Labetalol 200 mg PO BID 
RX *labetalol 200 mg 1 tablet(s) by mouth twice per day Disp 
#*60 Tablet Refills:*1 
5.  NIFEdipine CR 60 mg PO BID 
RX *nifedipine 60 mg 1 tablet(s) by mouth every 12 hours. Disp 
#*60 Tablet Refills:*2 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chronic hypertension with superimposed severe pre-eclampsia
spontaneous vaginal delivery at 31 weeks 6 days

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

Congratulations on the birth of your daughter!

You were admitted to the hospital and induced after developing 
chronic hypertension with superimposed pre-eclampsia. You 
underwent an uncomplicated vaginal delivery at 31 weeks 6 days. 
You required blood pressure medication to control your blood 
pressure. You should continue your medication (Nifedipine ER 
60mg twice daily and Labetalol 200mg twice daily). You will have 
close outpatient follow-up and may require adjustments to your 
medication. 

Please follow the below instructions:
-Nothing in the vagina for 6 weeks (No sex, douching, tampons)
-Do not take more than 4000mg acetaminophen (tylenol) in 24 hrs
-Do not take more than 2400mg ibuprofen in 24 hrs
-Please call the on-call doctor at ___ if you develop a 
headache, chest pain, vision changes, shortness of breath, 
dizziness, palpitations, fever of 100.4 or above, abdominal 
pain, heavy vaginal bleeding, nausea/vomiting, depression, or 
any other concerns.
 
Followup Instructions:
___